US08008505B2
55.2 [rac]-1-(4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-phenoxy)-cyclopropanecarboxylic acid
In analogy to the procedure described in example 7.2, [rac]-1-(4-{2-[2-(4-chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-phenoxy)-cyclopropanecarboxylic acid methyl ester was treated with 1 N aqueous lithium hydroxide solution in THF and MeOH to give the title compound as yellow oil. MS: m/e=533.2 [M−H−].

reactant | [rac]-1-(4-{2-[2-(4-chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-phenoxy)-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)OC1=CC=C(C=C1)OCC(C1CCCCC1)C=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)Cl | C32H33ClN2O4
reactant | lithium hydroxide | 1 N | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [rac]-1-(4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-phenoxy)-cyclopropanecarboxylic acid | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(COC1=CC=C(OC2(CC2)C(=O)O)C=C1)C1CCCCC1 | C31H35ClN2O4
